US06888032B2
The general procedure in example 39 was followed. 3-Iodobenzaldehyde (232 mg, 1.0 mmol), 3-methoxythiophenol (124 μL, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 3-(3-methoxyphenyl)sulfanylbenzaldehyde (205 mg, 85% yield) as colorless liquid. Column chromatographic solvent (hexane/ethyl acetate=15/1). Rf=0.4 (hexane/ethyl acetate=10/1). 1H NMR (CDCl3, 300 MHz) δ 9.91 (s, 1 H), 7.76-7.77 (m, 1 H), 7.71 (dt, 1 H, J=1.2 Hz, 7.2 Hz), 7.45-7.53 (m, 1 H), 7.42 (t, 1 H, J=7.5 Hz), 7.25 (t, 1 H, J=7.5 Hz), 6.91-6.98 (m, 2 H), 6.84 (ddd, 1 H, J=1.2 Hz, 2.4 Hz, 8.1 Hz), 3.77 (s, 3 H). 13C NMR (CDCl3, 75 MHz) δ 191.7, 160.3, 138.4, 137.3, 135.8, 135.0, 131.1, 130.5, 129.9, 127.9, 124.6, 117.6, 114.0, 55.7. IR (neat, cm−1) 3060, 3006, 2960, 2937, 2834, 2726, 1698. MS (EI) m/z (relative intensity) 244 (100), 227 (30), 211 (40). Anal. Cald. for C14H12O2S, Cald. C, 68.83; H, 4.95. Found C, 69.04; H, 4.94.

reactant | 3-Iodobenzaldehyde | 1.0 mmol, 232 mg | IC=1C=C(C=O)C=CC1 | C7H5IO
reactant | 3-methoxythiophenol | 1.0 mmol, 124 μL | COC=1C=C(C=CC1)S | C7H8OS
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 3-(3-methoxyphenyl)sulfanylbenzaldehyde | 205 mg, 85% yield | COC=1C=C(C=CC1)SC=1C=C(C=O)C=CC1 | C14H12O2S
